US05536737
d) (S)-2-[[(S)-2-(Acetoxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
(S)-2-[[(S)-2-(Diazoacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (3.63 g) was dissolved in acetic acid-1,4-dioxane (1:1, 36 ml), and the mixture was heated at 100° C. for 10 minutes. The reaction mixture was concentrated, added with methylene chloride, washed with a saturated aqueous solution of sodium bicarbonate and water in order, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to give the title compound (1.47 g) (see Table 1).

reactant | (S)-2-[[(S)-2-(Diazoacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 3.63 g | [N+](=[N-])=CC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C19H23N5O3
reactant | acetic acid 1,4-dioxane | 36 ml | C(C)(=O)O.O1CCOCC1
product | (S)-2-[[(S)-2-(Acetoxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 1.47 g | C(C)(=O)OCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C21H27N3O5
